US05481001
4-[1'-(N-Pentylamino)-1-hexylidene]-3-n-hexylisoxazol-5(4H)-one
3-n-Hexylisoxazol-5(4H)-one is obtained in 99% yield as a reddish liquid by holding ethyl 3-oxo-pelargonate at reflux temperature for 1 hour with one equivalent of hydroxylamine hydrochloride and one equivalent of pyridine and thereafter working-up in the usual manner.

reactant | ethyl 3-oxo-pelargonate | O=C(CC(=O)OCC)CCCCCC | C11H20O3
reactant | hydroxylamine hydrochloride | one equivalent | Cl.NO
reactant | pyridine | one equivalent | N1=CC=CC=C1 | C5H5N
product | 4-[1'-(N-Pentylamino)-1-hexylidene]-3-n-hexylisoxazol-5(4H)-one | C(CCCC)NC(CCCCC)=C1C(=NOC1=O)CCCCCC | C20H36N2O2
